US06995179B2
1) Synthesis of 5-(3-(pyridine-3-yl)-2-propene-1-yl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate:
387 mg (2.51 mmol) of 2-cyanoethyl 3-aminocrotonate, 547 mg (2.49 mmol) of (3-(pyridine-3-yl)-2-propene-1-yl) acetoacetate, and 0.285 ml (2.51 mmol) of 3-chlorobenzaldehyde were heated at 80° C. under stirring in 20 ml of 2-propanol overnight. 2-Propanol was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (chloroform/methanol=100:1) to obtain the title compound.

reactant | 2-cyanoethyl 3-aminocrotonate | 2.51 mmol, 387 mg | N\C(=C/C(=O)OCCC#N)\C | C7H10N2O2
reactant | (3-(pyridine-3-yl)-2-propene-1-yl) acetoacetate | 2.49 mmol, 547 mg | C(CC(=O)C)(=O)OCC=CC=1C=NC=CC1 | C12H13NO3
reactant | 3-chlorobenzaldehyde | 2.51 mmol, 0.285 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 5-(3-(pyridine-3-yl)-2-propene-1-yl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCC=CC=1C=NC=CC1)C)C)C(=O)OCCC#N | C26H24ClN3O4
